US07541467B2
Synthesis of N,N,N′,N′-tetrakis(2-quinolylmethyl)ethylenediamine (TQEN)
A mixture of 2-chloromethylquinoline hydrochloride (1.07 g, 5 mmol), ethylenediamine (75.0 mg 1.25 mmol), potassium carbonate (2.07 g, 15 mmol) and acetonitrile (10 mL) was refluxed by heating for 48 hours. The solvent was evaporated under reduced pressure, and then the residue was separated by phase separation using chloroform and water. The organic layer was dried, and the solvent was evaporated. The residue was washed with acetone to obtain the objective compound as white powder (0.70 g, 89%).

reactant | 2-chloromethylquinoline hydrochloride | 5 mmol, 1.07 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | ethylenediamine | 1.25 mmol, 75.0 mg | C(CN)N | C2H8N2
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N,N,N′,N′-tetrakis(2-quinolylmethyl)ethylenediamine | 0.70 g, 89% | N1=C(C=CC2=CC=CC=C12)CN(CCN(CC1=NC2=CC=CC=C2C=C1)CC1=NC2=CC=CC=C2C=C1)CC1=NC2=CC=CC=C2C=C1 | C42H36N6
